US05994356
(2) 1-(4-Cyclopentyloxycarbonylmethyloxyphenyl)-4-[2-(piperidin-4-yl)ethyl]piperazine dihydrochloride
Prepared from 1-(4-carboxymethyloxyphenyl)-4-[2-(piperidin-4-yl)ethyl]piperazine dihydrochloride and cyclopentanol.

reactant | 1-(4-carboxymethyloxyphenyl)-4-[2-(piperidin-4-yl)ethyl]piperazine dihydrochloride | Cl.Cl.C(=O)(O)COC1=CC=C(C=C1)N1CCN(CC1)CCC1CCNCC1
reactant | cyclopentanol | C1(CCCC1)O | C5H10O
product | 1-(4-Cyclopentyloxycarbonylmethyloxyphenyl)-4-[2-(piperidin-4-yl)ethyl]piperazine dihydrochloride | Cl.Cl.C1(CCCC1)OC(=O)COC1=CC=C(C=C1)N1CCN(CC1)CCC1CCNCC1 | InChI=1S/C24H37N3O3.2ClH/c28-24(30-23-3-1-2-4-23)19-29-22-7-5-21(6-8-22)27-17-15-26(16-18-27)14-11-20-9-12-25-13-10-20;;/h5-8,20,23,25H,1-4,9-19H2;2*1H
